US04940710
1-Ethyl-6-fluoro-7-[3-[(hexyloxy)methyl]-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 3 g portion of 2-[(hexyloxy)methyl]piperazine was added to 20 ml of pyridine in a pressure bottle, under argon. A 1.26 g portion of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was added, the bottle sealed and the mixture heated at 80°-90° C. for 4 hours, then evaporated. The residue was evaporated twice from toluene, the residue triturated with ether and the solid collected, giving 2.03 g of the desired product, mp 12°-124° C.

reactant | 2-[(hexyloxy)methyl]piperazine | C(CCCCC)OCC1NCCNC1 | C11H24N2O
reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-7-[3-[(hexyloxy)methyl]-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.03 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)COCCCCCC)F)=O)C(=O)O | C23H32FN3O4
